US05258378
N-Trifluoroacetyl-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine
Trifluoroacetic anhydride (4.37 g) was added dropwise to an ice-cooled solution of 2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine (4.54 g) and triethylamine (5.51 g) in dichloromethane (50 ml). The solution was evaporated to dryness, then 2M hydrochloric acid (50 ml) was added and the product was extracted into ether. The ether was washed with water, dried and evaporated to give a brown oil which was purified by chromatography on silica eluting with increasing amounts of methanol (1→20%) in chloroform to give the title product as a brown oil.

reactant | Trifluoroacetic anhydride | 4.37 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine | 4.54 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=C1)CCN | C12H14N2O2S
reactant | triethylamine | 5.51 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-Trifluoroacetyl-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine | FC(C(=O)NCCC1=CN(C=C1)S(=O)(=O)C1=CC=CC=C1)(F)F | C14H13F3N2O3S
